US06521788B2
A) Preparation of Cyclohexylideneacetonitrile
A 10 l round-bottom flask is loaded with 285 g (4.57 mols) of 90% potassium hydroxide in flakes and 1775 ml of hexane. The mixture is heated to 55° C. and, keeping heating, a solution consisting of 450 g (4.59 mols) of cyclohexanone and 1351 ml of acetonitrile is quickly dropped therein (during the addition temperature falls to 52.6° C.). The mixture is refluxed for 7 hours, then cooled at room temperature. 2863 ml of water are added thereof to dissolve the solid. The organic phase is washed twice with water (1000 ml each). The phases are separated and the organic phase is evaporated to dryness under vacuum, to obtain 462 g of a residue which is distilled under 10 mmHg at 100-105° C.

reactant | potassium hydroxide | 4.57 mols, 285 g | [OH-].[K+]
reactant | hexane | 1775 ml | CCCCCC | C6H14
reactant | cyclohexanone | 4.59 mols, 450 g | C1(CCCCC1)=O | C6H10O
reactant | acetonitrile | 1351 ml | C(C)#N | C2H3N
solvent | water | 2863 ml | O | H2O
product | Cyclohexylideneacetonitrile | 462 g | C1(CCCCC1)=CC#N | C8H11N
